US08445509B2
Production of N-{5-[(4-methoxybenzyl)oxy]pyridin-2-yl}-4-methylbenzenesulfonamide
To a solution of 5-[(4-methoxybenzyl)oxy]pyridin-2-amine (24 g, 104 mmol) in pyridine (210 mL) was added 4-methylbenzenesulfonyl chloride (20.9 g, 110 mmol) at 0° C., and the mixture was stirred at room temperature for 4 hr. The reaction mixture was concentrated, the residue was washed with saturated aqueous sodium hydrogen carbonate solution and ethyl acetate to give the title compound (37 g, 93%) as a pale-red solid.

reactant | 5-[(4-methoxybenzyl)oxy]pyridin-2-amine | 104 mmol, 24 g | COC1=CC=C(COC=2C=CC(=NC2)N)C=C1 | C13H14N2O2
reactant | 4-methylbenzenesulfonyl chloride | 110 mmol, 20.9 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | pyridine | 210 mL | N1=CC=CC=C1 | C5H5N
product | N-{5-[(4-methoxybenzyl)oxy]pyridin-2-yl}-4-methylbenzenesulfonamide | 37 g, 93% | COC1=CC=C(COC=2C=CC(=NC2)NS(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C20H20N2O4S
